US07531532B2
1-Methyl-1-(1-methylpiperidin-4-yl)-3-{4-[4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}urea
3-[4-(4-Aminophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea (60 mg) was dissolved in ethanol (1 ml) while stirring, and then D-10-camphorsulfonic acid (39.3 mg) was added thereto under a nitrogen atmosphere, followed by stirring for 5 min. Phenylacetyl isothiocyanate (toluene solution, 1.82 M, 0.074 ml) was added thereto, followed by stirring further for 1.5 hrs. The reaction mixture was partitioned between ethyl acetate (30 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:5, then ethyl acetate). Fractions containing the crude product were concentrated to give a residue, which was then purified by LC-MS. The fractions containing the target compound were concentrated to give a residue, to which a saturated aqueous solution of sodium hydrogencarbonate was added to extract with ethyl acetate. The organic layer was separated, dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:ethanol=9:1). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether (0.3 ml)-hexane (0.1 ml) was then added to suspend. The solid was filtered off and dried under aeration to provide the titled compound (2.0 mg, 2.2%) as a white solid.

reactant | 3-[4-(4-Aminophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | 60 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=C1 | C19H25N5O2
reactant | D-10-camphorsulfonic acid | 39.3 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | Phenylacetyl isothiocyanate | 1.82 M, 0.074 ml | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | hexane | 0.1 ml | CCCCCC | C6H14
solvent | diethyl ether | 0.3 ml | C(C)OCC | C4H10O
product | 1-Methyl-1-(1-methylpiperidin-4-yl)-3-{4-[4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}urea | 2.0 mg, 2.2% | CN(C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O)C1CCN(CC1)C | C28H32N6O3S
